US07109360B1
11β-Fluoro-7α-methylestra-1,3,5(10)-triene-3,16β-diol
A solution of 1.67 g (5.22 mmol) of 3-acetyloxy-11βfluoro-7α-methylestra-1,3,5(10),16-tetraene in 30 ml of DMSO and 2.4 ml of water is replaced in portions with 1.36 g of N-bromosuccinimide while being stirred at 0° C., the cold bath is removed after the addition of NBS is completed, and it is stirred for 45 more minutes at room temperature. For working-up, the reaction mixture is poured into ice water, extracted with ethyl acetate, the organic phase is washed with water and dried on sodium sulfate. The crude bromohydrin (2.3 g) is then taken up in 25 ml of dry tetrahydrofuran, mixed with 5 ml (18.6 mmol) of tributyl tin hydride, a first spatula tip full of AIBN (a total of 200 mg dispersed over the reaction time), and stirred for 10 hours at a bath temperature of 80° C. under an argon atmosphere. For working-up, it is diluted with ethyl acetate, the organic phase is washed with dilute hydrochloric acid and water and dried on sodium sulfate. For saponification, the crude product is dissolved in 50 ml of methanol and 5 ml of dichloromethane, and it is mixed with 2.0 g of potassium carbonate. The reaction mixture is stirred for 1.5 hours under argon and poured into ice water for working-up. It is made hydrochloric with dilute acid, and it is extracted with ethyl acetate. The organic phase is washed with water and dried on sodium sulfate. The crude product is chromatographed on silica gel (chloroform-tert-butylmethylether, gradient of up to 95:5), yield 1.16 g (75%), melting point 239–240° C. while decomposing, [α]D+96.8° (c 0.51 methanol).

reactant | 3-acetyloxy-11βfluoro-7α-methylestra-1,3,5(10),16-tetraene | 5.22 mmol, 1.67 g | C(C)(=O)OC1=CC=2C[C@H]([C@H]3[C@@H]4CC=C[C@@]4(C)C[C@@H]([C@@H]3C2C=C1)F)C | C21H25FO2
reactant | N-bromosuccinimide | 1.36 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | tributyl tin hydride | 18.6 mmol, 5 ml | C(CCC)[SnH](CCCC)CCCC
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | water | 2.4 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-Fluoro-7α-methylestra-1,3,5(10)-triene-3,16β-diol | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2C[C@@H](C[C@@]2(C)C1)O)C)O | C19H25FO2
